US04558060
6-(2-[4-(2-methoxyphenyl)-piperazin-1-yl]-ethyl)-benzoxazolinone
0.025 mol (4.82 g) of 1-(2-methoxyphenyl)-piperazine and 0.02 mol (4.85 g) of 6-(2-bromoethyl)-benzoxazolinone, dissolved beforehand in 50 cm3 of dioxane, were introduced into a 100 cm3 flask with a ground glass neck, fitted with a reflux condenser, and the mixture was then heated under reflux for 72 hours, with stirring. After cooling, filtration and drying, the precipitate formed was dissolved in a sufficient amount of a 3% aqueous solution of sodium hydroxide. A stream of carbon dioxide was then bubbled and the precipitate was filtered off, washed and dried. Recrystallisation from toluene gave 4.7 g of the title product having a melting point of 182°-184° C.

reactant | 1-(2-methoxyphenyl)-piperazine | 0.025 mol, 4.82 g | COC1=C(C=CC=C1)N1CCNCC1 | C11H16N2O
reactant | 6-(2-bromoethyl)-benzoxazolinone | 0.02 mol, 4.85 g | BrCCC1=CC2=C(NC(O2)=O)C=C1 | C9H8BrNO2
solvent | dioxane | 50 cm3 | O1CCOCC1 | C4H8O2
solvent | sodium hydroxide | [OH-].[Na+]
product | 6-(2-[4-(2-methoxyphenyl)-piperazin-1-yl]-ethyl)-benzoxazolinone | 4.7 g | COC1=C(C=CC=C1)N1CCN(CC1)CCC1=CC2=C(NC(O2)=O)C=C1 | C20H23N3O3
